US07253286B2
N-(2-Chloro-4-((6-cyano-7-(((2S)-3-(diethylamino)-2-hydroxypropyl)oxy)-4-quinolyl)oxy)phenyl)-N′-cyclopropylurea
After dissolving 4-(4-amino-3-chlorophenoxy)-6-cyano-7-(((2S)-3-(diethylamino)-2-hydroxypropyl)oxy)quinoline (78.6 mg, 0.18 mmol) in dimethylformamide (1 ml) under a nitrogen atmosphere, pyridine (0.022 ml, 0.27 mmol) and phenyl chloroformate (0.028 ml, 0.22 mmol) were added dropwise at room temperature, and the mixture was stirred for 1 hour. Cyclopropylamine (0.10 ml) was added dropwise, and the mixture was further stirred overnight. The reaction solution was distributed between ethyl acetate and saturated aqueous sodium bicarbonate, and the organic layer was washed with water and saturated brine and dried over anhydrous sodium sulfate. The solvent was distilled off, the residue was subjected to silica gel column chromatography (eluent—ethyl acetate), the fraction containing the target substance was concentrated, suspended in ethyl acetate and diluted with hexane, and the crystals were filtered out and blow-dried to obtain the title compound (37.8 mg, 0.072 mmol, 40.5%) as light yellow crystals.

reactant | 4-(4-amino-3-chlorophenoxy)-6-cyano-7-(((2S)-3-(diethylamino)-2-hydroxypropyl)oxy)quinoline | 0.18 mmol, 78.6 mg | NC1=C(C=C(OC2=CC=NC3=CC(=C(C=C23)C#N)OC[C@H](CN(CC)CC)O)C=C1)Cl | C23H25ClN4O3
reactant | pyridine | 0.27 mmol, 0.022 ml | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 0.22 mmol, 0.028 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | Cyclopropylamine | 0.10 ml | C1(CC1)N | C3H7N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-Chloro-4-((6-cyano-7-(((2S)-3-(diethylamino)-2-hydroxypropyl)oxy)-4-quinolyl)oxy)phenyl)-N′-cyclopropylurea | 0.072 mmol, 37.8 mg, 40.5% | ClC1=C(C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)C#N)OC[C@H](CN(CC)CC)O)NC(=O)NC1CC1 | C27H30ClN5O4
